US06420426B1
A solution of N-(4-Bromo-2-fluoro-benzyl)-4-fluoro-2-methoxy-5-morpholin-4yl-benzamide (0.94 g, 24.1 mmol) in a 25% HBr/AcOH solution (25 mL) was heated to 100° C. for 6 h, cooled to room temperature and extracted with ethyl acetate. The crude product was filtered through a short pad of silica and concentrated to give the solid N-(4-bromo-2-fluoro-benzyl)-4-fluoro-2-hydroxy-5-morpholin-4-yl-benzamide (0.8 g, 88%): 1H NMR (DMSO-d6 300 MHz) δ 12.4 (s, 1H), 9.34 (br s, 1H), 8.12 (s, 1H), 8.05 (d, J=8.1 Hz, 1H), 7.72 (d, J=4.5 Hz, 1H), 7.56 (t, J=8.1 Hz, 1H), 7.47 (d, J=9.6 Hz, 1H), 6.69 (d, J=13.2 Hz, 1H), 4.56 (d, J=6 Hz, 2H), 3.65 (br d, J=3 Hz, 4H), 2.84 (br d, J=3 Hz, 4H).

reactant | N-(4-Bromo-2-fluoro-benzyl)-4-fluoro-2-methoxy-5-morpholin-4yl-benzamide | 24.1 mmol, 0.94 g | BrC1=CC(=C(CNC(C2=C(C=C(C(=C2)N2CCOCC2)F)OC)=O)C=C1)F | C19H19BrF2N2O3
reactant | HBr AcOH | 25 mL | Br.CC(=O)O
product | N-(4-bromo-2-fluoro-benzyl)-4-fluoro-2-hydroxy-5-morpholin-4-yl-benzamide | 0.8 g, 88% | BrC1=CC(=C(CNC(C2=C(C=C(C(=C2)N2CCOCC2)F)O)=O)C=C1)F | C18H17BrF2N2O3
